* Extracted by KLayout with SG13CMOS5L LVS runset on : 14/08/2026 15:43

.SUBCKT charge_pump_cell DN UP gd vout vp
X$84 gd \$54 vp curr_source
X$85 gd vp \$4 vbias
M$1 \$38 DN vout gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u rfmode=0
M$2 \$70 \$31 vp vp sg13_lv_pmos L=0.6u W=1.65u AS=0.561p AD=0.561p PS=3.98u
+ PD=3.98u rfmode=0
M$3 \$7 \$12 gd gd sg13_lv_nmos L=0.6u W=4.8u AS=1.152p AD=1.152p PS=7.84u
+ PD=7.84u rfmode=0
M$6 \$7 \$4 \$12 gd sg13_lv_nmos L=0.6u W=4.8u AS=1.152p AD=1.152p PS=7.84u
+ PD=7.84u rfmode=0
M$9 vp UP \$27 vp sg13_lv_pmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$10 vp \$54 \$12 vp sg13_lv_pmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u rfmode=0
M$11 \$47 \$27 vout vp sg13_lv_pmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u rfmode=0
M$12 vp \$31 \$65 vp sg13_lv_pmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$13 \$47 \$4 \$70 vp sg13_lv_pmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$14 \$65 \$4 \$31 vp sg13_lv_pmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$15 \$32 \$12 gd gd sg13_lv_nmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$16 gd \$12 \$30 gd sg13_lv_nmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$17 \$31 \$4 \$37 gd sg13_lv_nmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$18 \$37 \$4 \$30 gd sg13_lv_nmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$19 \$32 \$4 \$38 gd sg13_lv_nmos L=0.6u W=1.6u AS=0.544p AD=0.544p PS=3.88u
+ PD=3.88u rfmode=0
M$20 gd UP \$27 gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
.ENDS charge_pump_cell

.SUBCKT vbias gd vp vbias
X$8 gd \$14 vp curr_source
M$1 \$8 \$9 vbias gd sg13_lv_nmos L=0.6u W=3.6u AS=1.224p AD=1.224p PS=7.88u
+ PD=7.88u rfmode=0
M$2 gd \$8 \$8 gd sg13_lv_nmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
R$3 vbias \$9 gd rppd w=1u l=1.7u ps=0u b=0 m=1
M$4 vp \$14 \$9 vp sg13_lv_pmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
M$5 gd gd gd gd sg13_lv_nmos L=0.6u W=1.86u AS=0.6324p AD=0.6324p PS=4.4u
+ PD=4.4u rfmode=0
M$6 vp vp vp vp sg13_lv_pmos L=0.6u W=1.375u AS=0.4675p AD=0.4675p PS=3.43u
+ PD=3.43u rfmode=0
.ENDS vbias

.SUBCKT curr_source gd iref vp
R$1 gd \$16 gd rppd w=1u l=1.7u ps=0u b=0 m=1
M$2 gd gd gd gd sg13_lv_nmos L=0.6u W=0.4u AS=0.136p AD=0.136p PS=1.48u
+ PD=1.48u rfmode=0
M$3 gd \$6 \$6 gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$4 vp \$6 iref gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$5 vp vp \$6 gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$6 gd \$10 \$10 gd sg13_lv_nmos L=0.6u W=1.4u AS=0.476p AD=0.476p PS=3.48u
+ PD=3.48u rfmode=0
M$7 vp iref \$10 vp sg13_lv_pmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
M$8 iref iref vp vp sg13_lv_pmos L=0.6u W=1.4u AS=0.476p AD=0.476p PS=3.48u
+ PD=3.48u rfmode=0
M$9 iref \$10 \$16 gd sg13_lv_nmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
.ENDS curr_source
