* PEX produced on Mon Aug 31 06:26:25 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from PFD_flip_flop.ext - technology: ihp-sg13cmos5l

.subckt PFD_flip_flop Q NQ clk D vp gd rst
X0 Q rst gd.t6 gd.t12 sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X1 3 clk NQ vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X2 3 clk_n NQ gd.t8 sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X3 a_812_118# 3 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X4 post_NOR rst gd.t6 gd.t11 sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X5 2 1 vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X6 3 clk 2 gd.t4 sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X7 clk_n clk vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X8 a_n184_118# 2 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X9 2 1 gd.t1 gd.t0 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X10 gd.t6 2 post_NOR gd.t9 sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X11 NQ Q gd.t6 gd.t10 sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X12 1 clk D vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X13 1 clk post_NOR gd.t3 sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X14 gd.t6 3 Q gd.t5 sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X15 clk_n clk gd.t1 gd.t2 sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X16 1 clk_n D gd.t7 sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X17 Q rst a_812_118# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X18 1 clk_n post_NOR vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X19 post_NOR rst a_n184_118# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X20 3 clk_n 2 vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X21 NQ Q vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
R0 gd.n10 gd.t2 1583.52
R1 gd.n9 gd.n8 2.67787
R2 gd.n4 gd.n1 369.774
R3 gd.n11 gd.n3 358.95
R4 gd.n15 gd.n14 341.538
R5 gd.n12 gd.n5 319.385
R6 gd.n4 gd.t9 21.805
R7 gd.n5 gd.t5 21.805
R8 gd.n3 gd.t11 23.7898
R9 gd.n7 gd.t12 23.7898
R10 gd.n17 gd.t7 66.1543
R11 gd.n15 gd.t3 66.1543
R12 gd.n12 gd.t4 66.1543
R13 gd.n1 gd.n0 0.650615
R14 gd.n0 gd.t0 29.2021
R15 gd.n8 gd.t10 29.2021
R16 gd.n3 gd.n2 2.79745
R17 gd.n7 gd.n6 2.79745
R18 gd.t7 gd.n10 38.462
R19 gd.t3 gd.n11 38.462
R20 gd.n14 gd.t4 38.462
R21 gd.n4 gd.n2 2.3631
R22 gd.n6 gd.n5 2.3631
R23 gd.t8 gd.n9 9.51747
R24 gd.n18 gd.n17 8.5005
R25 gd.n18 gd.n10 8.5005
R26 gd.n16 gd.n15 8.5005
R27 gd.n16 gd.n11 8.5005
R28 gd.n13 gd.n12 8.5005
R29 gd.n14 gd.n13 8.5005
R30 gd.t1 gd.n18 4.23591
R31 gd.t6 gd.n16 4.23591
R32 gd.n13 gd.t6 4.23591
R33 gd.t1 gd.t2 2.13884
R34 gd.n1 gd.t1 2.08833
R35 gd.n8 gd.n7 369.87
R36 gd.n6 gd.t6 2.68275
R37 gd.n2 gd.t6 2.68275
R38 gd.n17 gd.n0 352.457
R39 gd.t6 gd.t1 1.39176
R40 gd.n9 gd.t6 1.01707
R41 gd gd.t1 0.0005
C0 clk 2 0.62976f
C1 post_NOR Q 0.01715f
C2 clk 3 0.06702f
C3 clk post_NOR 0.02789f
C4 rst Q 0.26936f
C5 vp NQ 0.29121f
C6 vp 1 0.24642f
C7 2 1 0.89394f
C8 3 NQ 0.5345f
C9 3 1 0.01199f
C10 clk rst 0.19934f
C11 clk_n Q 0.02873f
C12 vp 2 0.41771f
C13 D clk_n 0.13788f
C14 3 vp 0.18585f
C15 vp a_n184_118# 0.03861f
C16 3 2 0.62563f
C17 post_NOR 1 0.5285f
C18 clk clk_n 1.97947f
C19 post_NOR vp 0.18086f
C20 post_NOR 2 0.60213f
C21 post_NOR a_n184_118# 0.03017f
C22 rst NQ 0.01413f
C23 rst 1 0.03335f
C24 rst vp 0.51499f
C25 rst 2 0.54783f
C26 a_812_118# Q 0.03017f
C27 clk Q 0.0343f
C28 rst 3 0.36753f
C29 clk D 0.0734f
C30 clk_n NQ 0.05672f
C31 clk_n 1 0.32077f
C32 rst a_n184_118# 0.01021f
C33 vp clk_n 1.08476f
C34 post_NOR rst 0.34484f
C35 clk_n 2 0.2117f
C36 3 clk_n 0.32731f
C37 post_NOR clk_n 0.08815f
C38 Q NQ 0.18983f
C39 D 1 0.34462f
C40 vp Q 0.29205f
C41 D vp 0.07847f
C42 Q 2 0.05824f
C43 3 Q 0.45545f
C44 clk NQ 0.06354f
C45 clk 1 0.73252f
C46 rst clk_n 0.13748f
C47 a_812_118# vp 0.03861f
C48 clk vp 1.4418f
C49 NQ gd 3.19571f
C50 D gd 0.13033f
C51 vp gd 6.62905f
C52 a_812_118# gd 2.49661f
C53 post_NOR gd 0.36417f
C54 a_n184_118# gd 2.04057f
C55 gd.t6 gd 0.77063f
.ends

