* Extracted by KLayout with SG13CMOS5L LVS runset on : 24/08/2026 12:42

.SUBCKT PFD_NOR A A|gd B B$1 out vp
M$1 A|gd A|gd out \$1 sg13_lv_nmos L=0.15u W=0.3u AS=0.156p AD=0.111p PS=2.08u
+ PD=1.48u rfmode=0
M$3 A|gd B out \$1 sg13_lv_nmos L=0.15u W=0.3u AS=0.111p AD=0.156p PS=1.48u
+ PD=2.08u rfmode=0
M$5 \$7 A vp \$6 sg13_lv_pmos L=0.15u W=0.3u AS=0.156p AD=0.111p PS=2.08u
+ PD=1.48u rfmode=0
M$7 \$7 B$1 out \$6 sg13_lv_pmos L=0.15u W=0.3u AS=0.111p AD=0.156p PS=1.48u
+ PD=2.08u rfmode=0
R$9 vp \$6 ntap1 A=0.6084p P=3.12u
R$10 A|gd \$1 ptap1 A=0.6084p P=3.12u
.ENDS PFD_NOR
