* Extracted by KLayout with SG13CMOS5L LVS runset on : 29/08/2026 20:38

.SUBCKT PFD_buffor
M$1 \$10 in gd gd sg13_lv_nmos L=0.5u W=0.4u AS=0.136p AD=0.076p PS=1.48u
+ PD=0.78u rfmode=0
M$2 gd \$10 out gd sg13_lv_nmos L=0.5u W=0.4u AS=0.076p AD=0.136p PS=0.78u
+ PD=1.48u rfmode=0
M$3 \$10 in vp vp sg13_lv_pmos L=0.5u W=0.4u AS=0.136p AD=0.076p PS=1.48u
+ PD=0.78u rfmode=0
M$4 vp \$10 out vp sg13_lv_pmos L=0.5u W=0.4u AS=0.076p AD=0.136p PS=0.78u
+ PD=1.48u rfmode=0
.ENDS PFD_buffor
