* Extracted by KLayout with SG13CMOS5L LVS runset on : 23/08/2026 18:29

.SUBCKT PFD_passgate A B gnd in_n in_p vp
M$1 A in_n B \$1 sg13_lv_nmos L=0.15u W=0.3u AS=0.156p AD=0.156p PS=2.08u
+ PD=2.08u rfmode=0
M$3 A in_p B \$2 sg13_lv_pmos L=0.15u W=0.3u AS=0.156p AD=0.156p PS=2.08u
+ PD=2.08u rfmode=0
R$5 vp \$2 ntap1 A=0.6084p P=3.12u
R$6 gnd \$1 ptap1 A=0.6084p P=3.12u
.ENDS PFD_passgate
